US07223879B2
2-Phenylaminobenzamide
Following the general procedure, bromobenzene (55 μL, 0.5 mmol) was coupled with 2-aminobenzamide (102 mg, 0.75 mmol) with the reaction time of 15 h. Chromatography on silica gel column with 1:1 hexane:ethyl acetate gave 74 mg (70%) of the title compound as a white solid.

reactant | bromobenzene | 0.5 mmol, 55 μL | BrC1=CC=CC=C1 | C6H5Br
reactant | 2-aminobenzamide | 0.75 mmol, 102 mg | NC1=C(C(=O)N)C=CC=C1 | C7H8N2O
reactant | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Phenylaminobenzamide | 74 mg, 70% | C1(=CC=CC=C1)NC1=C(C(=O)N)C=CC=C1 | C13H12N2O
